US07141561B2
4-(3-Dimethylaminopropoxy)phenylamine
Palladium(II) hydroxide (20% on carbon; 0.4 g) was added to a solution of dimethyl-[3-(4-nitrophenoxy)propyl]amine (3.75 g) in ethanol (75 ml) under argon. Then formic acid (4 ml) was added dropwise, during which the reaction mixture heated to 60° C. while evolving much gas. After a reaction time of 90 minutes, the catalyst was filtered off and the filtrate was concentrated. The residue was partitioned between methyl tert-butyl ether and sodium hydroxide solution (2N). The organic phase was dried and concentrated. The product with the molecular weight of 194.28 (C11H18N2O); MS (ESI):195 ([M+H]+), was obtained in this way.

reactant | dimethyl-[3-(4-nitrophenoxy)propyl]amine | 3.75 g | CN(CCCOC1=CC=C(C=C1)[N+](=O)[O-])C | C11H16N2O3
reactant | formic acid | 4 ml | C(=O)O | CH2O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Palladium(II) hydroxide | 0.4 g | [OH-].[Pd+2].[OH-]
product | 4-(3-Dimethylaminopropoxy)phenylamine | CN(CCCOC1=CC=C(C=C1)N)C | C11H18N2O
